US08168642B2
Step 2 Preparation of 2-methyl-5-thiazolamide
1.4 g Methyl 2-methylthiazol-5-carboxylate was added to 25 ml ammonia water, to carry out reaction at room temperature for 3 hr. The reaction product was cooled down, filtered, and washed with water to obtain 0.95 g a white powdery solid (73%) with mp 202-205 (C.

reactant | Methyl 2-methylthiazol-5-carboxylate | 1.4 g | CC=1SC(=CN1)C(=O)OC | C6H7NO2S
reactant | ammonia water | 25 ml | O.N
product | 2-methyl-5-thiazolamide | 0.95 g, 73% | CC=1SC(=CN1)C(=O)N | C5H6N2OS
